* ---------------------------------------------------------------------------
* ce03_lisn_subcircuits_v3.lib
* LISN comparison subcircuits for CE03 input equivalent circuit memo v5
*
* File alignment (v3):
*   - Memo : mil_std_461c_ce03_input_equivalent_circuit_memo_ja_v5.docx
*   - Proc : pfc_detailed_model_replacement_procedure_ja_v3.docx
*   - .cir : ce03_ltspice_equivalent_input_filter_pfc_v5_annotated.cir
*
* Functional note:
*   - This library contains only optional LISN comparison subcircuits.
*   - The CE03 main equivalent input circuit, EMI filter, PFC simplified model,
*     and PFC parasitic capacitance external equivalent are implemented in the
*     main .cir file listed above.
*   - The LISN library itself did not require an electrical change; only the
*     header references and the version tag are updated for traceability.
*
* Usage in LTspice:
*   .include ce03_lisn_subcircuits_v3.lib
*   X_LISN_L sL0 lisnL_eut lisnL_meas chassis LISN_5UH
*   X_LISN_N sN0 lisnN_eut lisnN_meas chassis LISN_5UH
*   (LISN comparison runs are OPTIONAL and not part of CE03 evaluation.)
* ---------------------------------------------------------------------------

* ================================================================
* Optional LISN subcircuits for comparison studies, not the main 461C CE03 model.
* ================================================================

* 5 uH LISN simplified, CISPR25/DO-160/MIL comparison use.
* Pins: SRC EUT MEAS CHASSIS
.subckt LISN_5UH SRC EUT MEAS CHASSIS params: LLISN=5u R_L=20m C_SRC=1u C_COUP=100n RMEAS=50 RLEAK=1Meg
L1    SRC EUT     {LLISN} Rser={R_L}
Csrc  SRC CHASSIS {C_SRC}
Ccoup EUT MEAS    {C_COUP}
Rmeas MEAS CHASSIS {RMEAS}
Rleak MEAS CHASSIS {RLEAK}
.ends LISN_5UH

* 50 uH LISN simplified, CE102/CISPR comparison use.
* Pins: SRC EUT MEAS CHASSIS
.subckt LISN_50UH SRC EUT MEAS CHASSIS params: LLISN=50u R_L=50m C_SRC=8u C_COUP=250n RMEAS=50 R5=5 RBLEED=1k
L1     SRC EUT     {LLISN} Rser={R_L}
Csrc   SRC CHASSIS {C_SRC}
Rser5  SRC CHASSIS {R5}
Ccoup  EUT MEAS    {C_COUP}
Rmeas  MEAS CHASSIS {RMEAS}
Rbleed MEAS CHASSIS {RBLEED}
.ends LISN_50UH
