* ---------------------------------------------------------------------------
* ce03_lisn_subcircuits_v2.lib
* LISN comparison subcircuits for CE03 input equivalent circuit memo v2
*
* Functional note:
* - This library contains only optional LISN comparison subcircuits.
* - The CE03 main equivalent input circuit, EMI filter, PFC simplified model,
*   and PFC parasitic capacitance external equivalent are implemented in:
*     ce03_ltspice_equivalent_input_filter_pfc_v2.cir
* - Therefore, the LISN library did not require an electrical change for v2.
* - This file is provided as a version-aligned library for traceability.
* ---------------------------------------------------------------------------

* ================================================================
* Optional LISN subcircuits for comparison studies, not the main 461C CE03 model.
* Include in LTspice with: .include ce03_lisn_subcircuits.lib
* ================================================================

* 5 uH LISN simplified, CISPR25/DO-160/MIL comparison use.
* Pins: SRC EUT MEAS CHASSIS
.subckt LISN_5UH SRC EUT MEAS CHASSIS params: LLISN=5u R_L=20m C_SRC=1u C_COUP=100n RMEAS=50 RLEAK=1Meg
L1 SRC EUT {LLISN} Rser={R_L}
Csrc SRC CHASSIS {C_SRC}
Ccoup EUT MEAS {C_COUP}
Rmeas MEAS CHASSIS {RMEAS}
Rleak MEAS CHASSIS {RLEAK}
.ends LISN_5UH

* 50 uH LISN simplified, CE102/CISPR comparison use.
* Pins: SRC EUT MEAS CHASSIS
.subckt LISN_50UH SRC EUT MEAS CHASSIS params: LLISN=50u R_L=50m C_SRC=8u C_COUP=250n RMEAS=50 R5=5 RBLEED=1k
L1 SRC EUT {LLISN} Rser={R_L}
Csrc SRC CHASSIS {C_SRC}
Rser5 SRC CHASSIS {R5}
Ccoup EUT MEAS {C_COUP}
Rmeas MEAS CHASSIS {RMEAS}
Rbleed MEAS CHASSIS {RBLEED}
.ends LISN_50UH
